US07691892B2
b) 4-(5-[2-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl]-vinyl}-4-ethyl-4H-[1,2,4]triazol-3-yl)-pyridine
4-Ethyl-5-pyridin-4-yl-4H-[1,2,4]triazole-3-carbaldehyde (56.4 mg, 0.279 mmol) was dissolved in dimethylformamide (2 mL) and added to a vial containing 2-(3-chloro-phenyl)-5-[(triphenyl-λ5-phosphanyl)-methyl]-2H-tetrazole hydrobromide (165.1 mg, 0.307 mmol) dissolved in dimethylformamide (2 mL). After addition of DBU (84.9 mg, 0.558 mmol), the vial was capped and the reaction was allowed to stir at room temperature for two hours. It was then heated at 80° C. for 1.5 hours. After cooling, water was added and an aqueous workup was done extracting with ethyl acetate three times. The combined organic layers were washed with water twice, brine, dried over sodium sulfate, filtered and concentrated. The crude product was purified by an SPE tube (5% MeOH/CH2Cl2) to yield the title compound as a white solid. 1H NMR (CDCl3) δ (ppm): 8.84 (d, 2H), 8.22 (m, 1H), 8.10 (d oft, 1H), 8.04 (d, 1H), 7.67 (d, 1H), 7.64 (m, 2H), 7.51 (m, 2H), 4.27 (q, 2H), 1.51 (t, 3H).

reactant | 4-Ethyl-5-pyridin-4-yl-4H-[1,2,4]triazole-3-carbaldehyde | 0.279 mmol, 56.4 mg | C(C)N1C(=NN=C1C1=CC=NC=C1)C=O | C10H10N4O
reactant | 2-(3-chloro-phenyl)-5-[(triphenyl-λ5-phosphanyl)-methyl]-2H-tetrazole hydrobromide | 0.307 mmol, 165.1 mg | Br.ClC=1C=C(C=CC1)N1N=C(N=N1)CP(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | DBU | 0.558 mmol, 84.9 mg | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | water | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(5-[2-[2-(3-chloro-phenyl)-2H-tetrazol-5-yl]-vinyl}-4-ethyl-4H-[1,2,4]triazol-3-yl)-pyridine | ClC=1C=C(C=CC1)N1N=C(N=N1)C=CC=1N(C(=NN1)C1=CC=NC=C1)CC | C18H15ClN8
